US03953455
A mixture of 11.0 g (0.04 mole) of 6-oxo-6H-dibenzo [b,d]pyran-3,8-dicarboxylic acid, 18.0 g (0.12 mole) of γ-diethylaminopropyl chloride and 400 ml of isopropyl alcohol are stirred and heated to its reflux temperature. A catalytic amount of benzyltrimethylammonium chloride, 0.3 ml of a 60% aqueous solution, is added and the reaction mixture heated to reflux for an additional 24 hours. On cooling, the reaction mixture is filtered, and the residue washed with isopropyl alcohol. This product is dissolved in boiling ethanol, treated with charcoal, filtered and cooled to room temperature. After standing for 1 hour, the gelatinous precipitate which appears is filtered and the filtrate cooled to -20° C. The product which forms is filtered, washed with ethanol and again recrystallized from ethanol to yield the desired bis[3-(diethylamino) propyl]6-oxo-6H-dibenzo[b,d]pyran-3,8-dicarboxylate dihydrochloride as a tan-colored solid, soluble in water and having a m.p. of 250°-1° C. (dec.) (placed in m.p. bath previously heated at 240° C.), λmax 294, and E1cm1% 464.

reactant | 6-oxo-6H-dibenzo [b,d]pyran-3,8-dicarboxylic acid | 0.04 mole, 11.0 g | O=C1C2=C(C3=C(O1)C=C(C=C3)C(=O)O)C=CC(=C2)C(=O)O | C15H8O6
reactant | γ-diethylaminopropyl chloride | 0.12 mole, 18.0 g | C(C)N(CCCCl)CC | C7H16ClN
catalyst | benzyltrimethylammonium chloride | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | isopropyl alcohol | 400 ml | C(C)(C)O | C3H8O
product | bis[3-(diethylamino) propyl]6-oxo-6H-dibenzo[b,d]pyran-3,8-dicarboxylate dihydrochloride | Cl.Cl.C(C)N(CCCOC(=O)C=1C=CC2=C(OC(C3=C2C=CC(=C3)C(=O)OCCCN(CC)CC)=O)C1)CC | InChI=1S/C29H38N2O6.2ClH/c1-5-30(6-2)15-9-17-35-27(32)21-11-13-23-24-14-12-22(20-26(24)37-29(34)25(23)19-21)28(33)36-18-10-16-31(7-3)8-4;;/h11-14,19-20H,5-10,15-18H2,1-4H3;2*1H
